US04066438
4-Amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine, hydrochloride
Ten grams of 4-amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine, prepared in Example I, was dissolved in 50 milliliters of 5 Normal hydrochloric acid, at ambient temperature, with agitation. The solid which precipitated was recovered by filtration under reduced pressure and dried. The 4-amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine, hydrochloride product was recovered in a yield of 95 percent of theoretical and melted at 169° C. to 170° C.

reactant | 4-amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine | Ten grams | NC1=C(C(=NC=C1Cl)OCCO)Cl | C7H8Cl2N2O2
solvent | hydrochloric acid | Cl | ClH
product | 4-Amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine, hydrochloride | yield of 95 percent | Cl.NC1=C(C(=NC=C1Cl)OCCO)Cl | InChI=1S/C7H8Cl2N2O2.ClH/c8-4-3-11-7(13-2-1-12)5(9)6(4)10;/h3,12H,1-2H2,(H2,10,11);1H
